US08314094B2
[1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl]boronic acid 1-(tetrahydropyran-2-yl)-1H-pyrazole
A mixture of pyrazole (14.3 g, 0.21 mmol), 3,4-dihydro-2H-pyrane (29 mL, 0.32 mmol) and trifluoroacetic acid (0.1 mL, 0.0013 mmol) was heated under reflux for 5 hours. After the mixture was cooled to room temperature, sodium hydride (60%, 0.2 g, 0.008 mmol) was added thereto, and the mixture was stirred for 10 minutes. The reaction mixture was subjected to distillation under reduced pressure (60-65° C., 0.5-1 mmHg), whereby 1-(tetrahydropyran-2-yl)-1H-pyrazole (30.8 g, 96%) was obtained. To a stirred solution of the obtained 1-(tetrahydropyran-2-yl)-1H-pyrazole (30 g, 197 mmol) in THF (197 mL), n-butyl lithium (2.6 M hexane solution, 79 mL) was added at −78° C., and the reaction solution was stirred at −78° C. for 30 minutes. To the reaction solution, triisopropyl borate (50.0 mL, 217 mmol) was added at −78° C., and the solution was stirred for 1 hour. To the reaction solution, 2 N hydrochloric acid (200 mL) was added, and the solution was stirred at room temperature for 30 minutes. The solution was extracted three times with chloroform-ethanol. The extracted organic layer was washed sequentially with water and saturated brine and then dried over magnesium sulfate. After the drying agent was removed by filtration, the solvent was evaporated under reduced pressure. The residue was crystallized from ethyl acetate-hexane, whereby the objective compound (16.0 g, 41.4%) was obtained as a colorless solid.

reactant | 1-(tetrahydropyran-2-yl)-1H-pyrazole | 197 mmol, 30 g | O1C(CCCC1)N1N=CC=C1 | C8H12N2O
reactant | triisopropyl borate | 217 mmol, 50.0 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | 2 N, 200 mL | Cl | ClH
solvent | THF | 197 mL | C1CCOC1 | C4H8O
solvent | n-butyl lithium | 2.6 M, 79 mL | C(CCC)[Li]
product | [1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl]boronic acid 1-(tetrahydropyran-2-yl)-1H-pyrazole | O1C(CCCC1)N1N=CC=C1.O1C(CCCC1)N1N=CC=C1B(O)O | InChI=1S/C8H13BN2O3.C8H12N2O/c12-9(13)7-4-5-10-11(7)8-3-1-2-6-14-8;1-2-7-11-8(4-1)10-6-3-5-9-10/h4-5,8,12-13H,1-3,6H2;3,5-6,8H,1-2,4,7H2
